US06140274
A mixture of 0.39 g of 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde, 0.24 g of 1-propanol and 10 ml of cyclohexane was stirred at room temperature, to which 0.038 g of p-tolunesulfonic acid hydrate and 0.40 g of powdered molecular sieves SA were added. After stirring at room temperature for 30 minutes, the reaction mixture was filtered. The filtrate was added to water and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then evaporated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.38 g of 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-dipropyloxyethoxy)butyloxy)benzene (yield, 77%), nD23.5 1.4975.

reactant | 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde | 0.39 g | C(C)C1=C(OCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)CC | C19H26Cl2O4
reactant | 1-propanol | 0.24 g | C(CC)O | C3H8O
reactant | cyclohexane | 10 ml | C1CCCCC1 | C6H12
product | 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-dipropyloxyethoxy)butyloxy)benzene | 0.38 g, 77% | C(C)C=1C=C(C=C(C1OCCCCOCC(OCCC)OCCC)CC)OCC=C(Cl)Cl | C25H40Cl2O5
